US04261651
Step A1: The production of 4-n-propylacetophenone
Crushed anhydrous aluminium trichloride (1.28 mole) was suspended in dry carbon disulphide (348 ml). Acetylchloride (1.1 mole) and n-propylbenzene (1.0 mole) was dissolved in dry carbon disulphide (348 ml) and added to the suspension of aluminium trichloride under anhydrous conditions. The mixture was then left to stir overnight. The solvent was distilled from the reaction mixture and the viscous residue poured onto crushed ice and stirred for 0.5 hours. The product was extracted into ether and the extract washed with water and dried (Na2SO4). The ether was removed by distillation and the oily residue distilled. The product had mpt 132° C. at 0.1 mm Hg.

reactant | aluminium trichloride | 1.28 mole | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | Acetylchloride | 1.1 mole | C(C)(=O)Cl | C2H3ClO
reactant | n-propylbenzene | 1.0 mole | CCCC=1C=CC=CC1 | C9H12
solvent | carbon disulphide | 348 ml | C(=S)=S | CS2
solvent | carbon disulphide | 348 ml | C(=S)=S | CS2
product | 4-n-propylacetophenone | CCCC1=CC=C(C=C1)C(=O)C | C11H14O
